US05912246
A mixture of 2-amino-5-picoline (Aldrich; 5.028 g), 1,3-dichloroacetone (Aldrich; 5.893 g), and 1,2-dimethoxyethane (Aldrich; 43 mL) is stirred for 1 h at 55° C., at which time ethanol (47 mL) is added and the mixture is stirred for 2.75 h at reflux. The mixture is then concentrated under reduced pressure and partitioned between dichloromethane and saturated aq. sodium bicarbonate. The combined organic layers are washed with brine, dried with MgSO4, and concentrated under reduced pressure. The residue is chromatographed on silica gel using methanol/dichloromethane (1/99) and the appropriate fractions are combined and concentrated to give, after crystallization from ethyl acetate, 0.411 g of 2-(chloromethyl)-6-methylimidazo[1,2-a]pyridine. Methanol is added to the filtrate, which is then concentrated to a reduced volume. The addition of hexane gives an additional 1.50 g of 2-(chloromethyl)-6-methylimidazo[1,2-a]pyridine in two crops; mp 88-89.25° C.; ms m/z 180; IR (mineral oil) 796, 705, 699, 1343, 1510 cm-1 ; 1H NMR (CDCl3) 8 2.32, 4.76, 7.03, 7.47, 7.53, 7.86.

reactant | 2-amino-5-picoline | 5.028 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | 1,3-dichloroacetone | 5.893 g | ClCC(=O)CCl | C3H4Cl2O
reactant | 1,2-dimethoxyethane | 43 mL | COCCOC | C4H10O2
solvent | ethanol | 47 mL | C(C)O | C2H6O
product | 2-(chloromethyl)-6-methylimidazo[1,2-a]pyridine | 1.50 g | ClCC=1N=C2N(C=C(C=C2)C)C1 | C9H9ClN2
